US08119663B2
2,3-Difluoro-N′-hydroxybenzenecarboximidamide
5.0 g (35.2 mmol) of 2,3-difluorobenzonitrile were initially charged in 43 ml of ethanol, and a solution of 3.7 g (52.8 mmol) of hydroxylammonium chloride and 5.9 ml (4.3 g, 42.3 mmol) of triethylamine was added at RT. The reaction mixture was stirred at RT for 16 h, concentrated under reduced pressure, taken up in ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The organic extracts were dried over sodium sulphate, filtered and concentrated under reduced pressure. Yield: 5.7 g (94% of theory)

reactant | 2,3-difluorobenzonitrile | 35.2 mmol, 5.0 g | FC1=C(C#N)C=CC=C1F | C7H3F2N
reactant | hydroxylammonium chloride | 52.8 mmol, 3.7 g | [Cl-].O[NH3+]
reactant | triethylamine | 42.3 mmol, 5.9 ml, 4.3 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 43 ml | C(C)O | C2H6O
product | 2,3-Difluoro-N′-hydroxybenzenecarboximidamide | FC1=C(C=CC=C1F)C(N)=NO | C7H6F2N2O
